US09382228B2
A solution of 2,2,2-trimethylacetamide (0.019 g, 0.190 mmol) in DCE (2 mL) was treated with oxalyl chloride (0.017 mL, 0.190 mmol), stirred at RT for 5 min, then heated at 80° C. for 0.5 h. The mixture was cooled to RT, added to a solution of 5-((2′-(trifluoromethyl)-[2,4′-bipyridin]-4-yl)oxy)pyridin-2-amine (0.042 g, 0.126 mmol) and pyridine (0.082 mL, 1.011 mmol) in dioxane (4 mL) and stirred at RT for 3 h. The mixture was treated with satd. NaHCO3, extracted with EtOAc (3×) and the combined organics were dried over Na2SO4 and concentrated to dryness. The material was treated with MeCN and the solid collected via filtration to afford N-((5-((2′-(trifluoromethyl)-[2,4′-bipyridin]-4-yl)oxy)pyridin-2-yl)carbamoyl)pivalamide (34 mg, 59%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 11.24 (s, 1H), 10.45 (s, 1H), 8.87 (d, J=5.1 Hz, 1H), 8.65 (d, J=5.6 Hz, 1H), 8.51 (s, 1H), 8.37 (d, J=5.2 Hz, 1H), 8.32 (d, J=2.9 Hz, 1H), 8.11 (d, J=9.0 Hz, 1H), 7.97 (d, J=2.4 Hz, 1H), 7.79 (dd, J=9.0, 2.9 Hz, 1H), 7.05 (dd, J=5.6, 2.4 Hz, 1H), 1.21 (s, 9H); MS (ESI) m/z: 460.2 (M+H+).

reactant | 2,2,2-trimethylacetamide | 0.190 mmol, 0.019 g | CC(C(=O)N)(C)C | C5H11NO
reactant | oxalyl chloride | 0.190 mmol, 0.017 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-((2′-(trifluoromethyl)-[2,4′-bipyridin]-4-yl)oxy)pyridin-2-amine | 0.126 mmol, 0.042 g | FC(C1=NC=CC(=C1)C1=NC=CC(=C1)OC=1C=CC(=NC1)N)(F)F | C16H11F3N4O
reactant | pyridine | 1.011 mmol, 0.082 mL | N1=CC=CC=C1 | C5H5N
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | N-((5-((2′-(trifluoromethyl)-[2,4′-bipyridin]-4-yl)oxy)pyridin-2-yl)carbamoyl)pivalamide | 34 mg, 59% | FC(C1=NC=CC(=C1)C1=NC=CC(=C1)OC=1C=CC(=NC1)NC(=O)NC(C(C)(C)C)=O)(F)F | C22H20F3N5O3
